US06121182
In a 1-liter egg-plant flask were charged about 40 g (0.20 mol) of 2,7-dimethyl-4-isopropyl-indanol, 500 ml of benzene, and p-toluenesulfonic acid monohydrate and the mixture was stirred under reflux for 1 hour. The reaction mixture was poured in an aqueous sodium hydrogen carbonate solution and extracted with diethyl ether. The organic layer was washed with water and with saline and dried over sodium sulfate. Sodium sulfate was removed by filtration and the solvent was distilled off under reduced pressure. The residue was distilled under reduced pressure (69 to 74° C./0.5 mmHg) to obtain 29.06 g (0.156 mol) of 2,7-dimethyl-4-isopropylindene as a colorless liquid.

reactant | 2,7-dimethyl-4-isopropyl-indanol | 0.20 mol, about 40 g | CC1C(C2=C(C=CC(=C2C1)C(C)C)C)O | C14H20O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2,7-dimethyl-4-isopropylindene | 0.156 mol, 29.06 g | CC=1CC2=C(C=CC(=C2C1)C(C)C)C | C14H18
